US05079241
A) 3-Hydroxy-4-[(2-tert.-butoxycarbonylaminoacetyl)amino]benzoic acid
A solution of 9.75 g of 4-amino-3-hydroxybenzoic acid and 9.75 ml of triethylamine in 90 ml of dimethylformamide is heated to 80° C. 20 g of the N-hydroxysuccinimide ester of N-tert.-butoxycarbonylglycine are added and the reaction mixture is kept at 80° C for 4 hours.

reactant | 4-amino-3-hydroxybenzoic acid | 9.75 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | triethylamine | 9.75 ml | C(C)N(CC)CC | C6H15N
reactant | N-tert.-butoxycarbonylglycine | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-Hydroxy-4-[(2-tert.-butoxycarbonylaminoacetyl)amino]benzoic acid | OC=1C=C(C(=O)O)C=CC1NC(CNC(=O)OC(C)(C)C)=O | C14H18N2O6
